US06875765B2
To a solution of acetic acid (8 mL) and dioxane (8 mL) at 0° C. was added lithium chloride (0.36 g, 8.46 mmol) and copper (I) chloride (0.042 g, 0.42 mmol). Sulfur dioxide (40 mL) was then condensed into this mixture by means of a cold finger at −78° C. A solution of 4-diazo-3-(2-naphthalen-1-yl-ethoxy)-benzamide fluoroborate in dioxane (20 mL) and acetonitrile (5 mL) was added in one portion to the sulfur dioxide mixture. The reaction was stirred at 0° C. for 3 hours and then heated to 65° C. overnight. The reaction was then cooled to room temperature and poured onto ethyl acetate (500 mL) and washed with water (50 mL), 1N sodium hydroxide (50 mL), saturated sodium bicarbonate (50 mL), and saturated sodium chloride (50 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield 4-(chlorosulfonyl)-3-(2-naphthalen-1-yl-ethoxy)-benzamide as an orange oil. 1HNMR(300 MHz, CDCl3) 8.00 (d, 1H), 7.87 (d, 1H), 7.78 (d, 1H), 7.68 (d, 1H), 7.57 (s, 1H), 7.40 (m, 4H), 6.21 (bs, 1H), 4.49 (t, 2H), 3.64 (t, 2H).

reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
reactant | lithium chloride | 8.46 mmol, 0.36 g | [Cl-].[Li+]
reactant | Sulfur dioxide | 40 mL | S(=O)=O | O2S
reactant | 4-diazo-3-(2-naphthalen-1-yl-ethoxy)-benzamide fluoroborate | F[B-](F)(F)F.[N+](=[N-])=C1C(C=C(C(=O)N)C=C1)OCCC1=CC=CC2=CC=CC=C12
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | copper (I) chloride | 0.42 mmol, 0.042 g | [Cu]Cl
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-(chlorosulfonyl)-3-(2-naphthalen-1-yl-ethoxy)-benzamide | ClS(=O)(=O)C1=C(C=C(C(=O)N)C=C1)OCCC1=CC=CC2=CC=CC=C12 | C19H16ClNO4S
